US07470679B2
2-(S)-(4-Chloromethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester hydrochloride
Thionyl chloride (5.0 mL) was added to a solution of 2-(S)-(4-hydroxymethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester (1.53 g, 5.0 mmol) in dichloromethane (30 mL). Reaction mixture was stirred at ambient temperature for 2 hours. Mixture was concentrated in vacuo. Residue was triturated in toluene (30 mL), then concentrated in vacuo. Residue was treated with dichloromethane (30 mL) then concentrated in vacuo. Desired product was obtained in 96% yield as an orange solid. 1H NMR (300 MHz, CDCl3): δ=8.22 (s, 1H), 7.49 (d, J=8.8, 1H), 7.15 (d, J=8.8, 1H), 5.12 (s, 2H), 3.56 (s, 3H), 3.52 (s, 3H), 3.05 (m, 3H), 2.69 (dd, J1=8.1, J2=16.5), 2.54 (m, 1H). MS m/e (M+H)+=325.2.

reactant | Thionyl chloride | 5.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(S)-(4-hydroxymethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester | 5.0 mmol, 1.53 g | COC([C@H](CC(=O)OC)CC=1C(=C2C=NNC2=CC1)CO)=O | C15H18N2O5
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-(S)-(4-Chloromethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester hydrochloride | 96% yield | Cl.COC([C@H](CC(=O)OC)CC=1C(=C2C=NNC2=CC1)CCl)=O | InChI=1S/C15H17ClN2O4.ClH/c1-21-14(19)6-10(15(20)22-2)5-9-3-4-13-12(8-17-18-13)11(9)7-16;/h3-4,8,10H,5-7H2,1-2H3,(H,17,18);1H/t10-;/m0./s1
